US08377927B2
A mixture of (±)-trans-3-[4-(benzyloxy)phenyl]-4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)pyrrolidine-2,5-dione (0.2 g) and Pd/C (10% w/w, 0.076 g) was stirred under 1 atmosphere of hydrogen gas overnight. The catalyst was filtered off through a pad of celite and concentrated. The residue was purified by column chromatography on silica gel eluting with 30-40% ethyl acetate in hexane to provide (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(4-hydroxyphenyl)pyrrolidine-2,5-dione 0.07 g as a light yellow solid. Mp 105-107° C.; 1H NMR (acetone-d6) 400 MHz δ: 10.27 (s, 1H), 8.34 (s, 1H), 7.17-7.21 (m, 4H), 6.80-6.91 (m, 4H), 4.39 (d, J=7.0 Hz, 1H), 4.22 (d, J=7.0 Hz, 1H), 4.13 (d, J=5.6 Hz, 2H), 2.92 (d, J=5.2 Hz, 2H), 2.15-2.19 (m, 2H).

reactant | (±)-trans-3-[4-(benzyloxy)phenyl]-4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)pyrrolidine-2,5-dione | 0.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1C(NC([C@H]1C1=CN2CCCC3=CC=CC1=C23)=O)=O | C28H24N2O3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.076 g | [Pd] | Pd
product | (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(4-hydroxyphenyl)pyrrolidine-2,5-dione | 0.07 g | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CC=C(C=C2)O)=O)=O | C21H18N2O3
